US07211577B2
2) Preparation of 4-(4-tert-butoxycarbonyl-1-piperazinyl)methyl-2-isobutyl-6-[4-(methylsulfonyl)phenyl]-2H-pyridazin-3-one
Following the procedure of Example 1(10), 2-isobutyl-4-methanesulfonyloxymethyl-6-[4-(methylsulfonyl)phenyl]-2H-pyridazin-3-one and tert-butyl 1-piperazinecarboxylate were reacted to yield the title compound as a yellow oil (yield: 75.9%).

reactant | 2-isobutyl-4-methanesulfonyloxymethyl-6-[4-(methylsulfonyl)phenyl]-2H-pyridazin-3-one | C(C(C)C)N1N=C(C=C(C1=O)COS(=O)(=O)C)C1=CC=C(C=C1)S(=O)(=O)C | C17H22N2O6S2
reactant | tert-butyl 1-piperazinecarboxylate | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
product | 4-(4-tert-butoxycarbonyl-1-piperazinyl)methyl-2-isobutyl-6-[4-(methylsulfonyl)phenyl]-2H-pyridazin-3-one | yield: 75.9% | C(C)(C)(C)OC(=O)N1CCN(CC1)CC=1C(N(N=C(C1)C1=CC=C(C=C1)S(=O)(=O)C)CC(C)C)=O | C25H36N4O5S
